US04650810
(iv) 3-(1-Methyl-2-nitroethyl)-1H-indole-5-acetamide
A mixture of 1H-indole-5-acetamide (0.41 g) and 1-nitropropene (0.23 g) was heated at 80° for 24 h and then left at ambient temperature for another 24 h. Chromatography of the thick oil on silica (Merck 7734, 35 g) eluting with ethyl acetate gave a mixture of the title compound and starting material (4:1, 0.26 g) which was used in the next stage without further purification.

reactant | 1H-indole-5-acetamide | 0.41 g | N1C=CC2=CC(=CC=C12)CC(=O)N | C10H10N2O
reactant | 1-nitropropene | 0.23 g | [N+](=O)([O-])C=CC | C3H5NO2
product | 3-(1-Methyl-2-nitroethyl)-1H-indole-5-acetamide | CC(C[N+](=O)[O-])C1=CNC2=CC=C(C=C12)CC(=O)N | C13H15N3O3
